US09260427B2
Prepared using General Procedure 9. Into a solution of tert-butyl (5-(tert-butyl)thiophene-2-carbonyl)-L-tyrosinate (3.52 g, 8.72 mmol) were added DIEA (4.56 mL, 26.17 mmol) and N-phenyl bis(trifluoromethanesulfonimide) (3.27 g, 9.16 mmol). After stirring for 18 h, the reaction mixture was diluted with DCM then washed with saturated aqueous NaHCO3. The organic layer was dried over MgSO4 and concentrated. The crude product was purified by chromatography to provide 4.10 g (87.6%) of tert-butyl (S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(((trifluoromethyl)sulfonyl)oxy)phenyl)propanoate INT-15. LCMS-ESI (m/z) calculated for C23H28F3NO6S2, 535.1; no m/z observed, tR=4.22 min (Method 3).

reactant | tert-butyl (5-(tert-butyl)thiophene-2-carbonyl)-L-tyrosinate | 8.72 mmol, 3.52 g | C(C)(C)(C)C1=CC=C(S1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C22H29NO4S
reactant | DIEA | 26.17 mmol, 4.56 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-phenyl bis(trifluoromethanesulfonimide) | 9.16 mmol, 3.27 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl (S)-2-(5-(tert-butyl)thiophene-2-carboxamido)-3-(4-(((trifluoromethyl)sulfonyl)oxy)phenyl)propanoate | 4.10 g, 87.6% | C(C)(C)(C)C1=CC=C(S1)C(=O)N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C23H28F3NO6S2
